US07087597B1
ethyl 4-hydroxy-2-(2,3-dihydro-1H-indol-1-yl)-5-pyrimidinecarboxylate
To a solution of indoline (3.58 g, 30 mmol) in ethanol (50 mL) was added ethyl 2-methylthio-4-hydroxypyrimidine-5-carboxylate (5.35 g, 25 mmol) and the mixture was heated under reflux for 18 h. The reaction mixture was allowed to cool to room temperature and the precipitated crystals were collected by filtration. The crystals were washed several times with cold ethanol and dried to give the title compound (5.5 g, 77%) as crystals.

reactant | indoline | 30 mmol, 3.58 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | ethyl 2-methylthio-4-hydroxypyrimidine-5-carboxylate | 25 mmol, 5.35 g | CSC1=NC=C(C(=N1)O)C(=O)OCC | C8H10N2O3S
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 4-hydroxy-2-(2,3-dihydro-1H-indol-1-yl)-5-pyrimidinecarboxylate | 5.5 g, 77% | OC1=NC(=NC=C1C(=O)OCC)N1CCC2=CC=CC=C12 | C15H15N3O3
